US06248765B1
3-(1H-Imidazol-4-yl)propyl 4-(methylthio)phenylmethyl ether
5 mmol of sodium 3-(1-triphenylmethyl-1H-imidazol-4-yl)propanolate and 5 mmol of 4-(methylthio)phenylmethane chloride are treated aa described in Example 5.

reactant | sodium 3-(1-triphenylmethyl-1H-imidazol-4-yl)propanolate | 5 mmol | C1(=CC=CC=C1)C(N1C=NC(=C1)CCC[O-])(C1=CC=CC=C1)C1=CC=CC=C1.[Na+]
reactant | 4-(methylthio)phenylmethane chloride | 5 mmol | [Cl-].CSC1=CC=C(C=C1)C
product | 3-(1H-Imidazol-4-yl)propyl 4-(methylthio)phenylmethyl ether | CSC1=CC=C(C=C1)COCCCC=1N=CNC1 | C14H18N2OS
